US06750231B2
1-Hexyl-3,4-dimethyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine
To a solution of (trimethylsilyl)diazomethane (2.0 M in hexane, 400 μL, 0.80 mmol) in tetrahydrofuran (10 mL) at 0° C. under an atmosphere of nitrogen was added n-butyllithium (2.5 M in diethyl ether, 320 μL, 0.80 mmol) dropwise. After 20 min, a solution of 4-(3-cyanophenyl)-1-hexyl-3,4-dimethylpiperidine (Preparation 6, 200 mg, 0.67 mmol) in tetrahydrofuran (5 mL) was added such that the internal temperature remained at 0° C. After stirring overnight, the reaction was quenched with saturated aqueous sodium hydrogencarbonate (25 mL) and the mixture was extracted with diethyl ether (3×25 mL). The extracts were washed with water and brine (10 mL each), dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a white foam which was used without further purification (266 mg, 96%).

reactant | (trimethylsilyl)diazomethane | 0.80 mmol, 2.0 M, 400 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | n-butyllithium | 0.80 mmol, 2.5 M, 320 μL | C(CCC)[Li]
reactant | 4-(3-cyanophenyl)-1-hexyl-3,4-dimethylpiperidine | 0.67 mmol, 200 mg | C(#N)C=1C=C(C=CC1)C1(C(CN(CC1)CCCCCC)C)C | C20H30N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-Hexyl-3,4-dimethyl-4-(3-(5-(trimethylsilyl)-1H-1,2,3-triazol-4-yl)phenyl)piperidine | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)C=1N=NNC1[Si](C)(C)C)C)C | C24H40N4Si
